US07112594B2
5-amino-2-(4-piperidinopiperidin-1-yl)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 4 using 2-chloro-5-nitrobenzonitrile (3.9 g) and piperidinopiperidine (7.2 g), the title compound (6.2 g) was obtained. melting point: 134-135° C.

reactant | 2-chloro-5-nitrobenzonitrile | 3.9 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | piperidinopiperidine | 7.2 g | N1(CCCCC1)N1CCCCC1 | C10H20N2
product | 5-amino-2-(4-piperidinopiperidin-1-yl)benzonitrile | 6.2 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCCCC1 | C17H24N4
